### PR TITLE
[Merged by Bors] - feat: local graph operations

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 1]
```diff
@@ -1308,43 +1305,6 @@ theorem DeleteFar.mono (h : G.DeleteFar p r₂) (hr : r₁ ≤ r₂) : G.DeleteF
 
 end DeleteFar
 
-/-! ## Vertex replacement -/
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1311]: What's the motivation for moving this?

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1311]: I feel that `Combinatorics.SimpleGraph.Basic` is already too long (2000+ lines), and that the edge cardinality theorems I've proven about the local operations are not basic at all. (Said theorems also total 150+ lines.)

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -344,6 +344,34 @@ theorem cliqueFree_two : G.CliqueFree 2 ↔ G = ⊥ := by
     exact cliqueFree_bot le_rfl
 #align simple_graph.clique_free_two SimpleGraph.cliqueFree_two
 
+/-- Adding an edge increases the clique number by at most one. -/
+theorem cliqueFree_of_addEdge_cliqueFree (v w) (h : G.CliqueFree n) :
```
Comment (urkud) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:348]:
```suggestion
protected theorem CliqueFree.addEdge (h : G.CliqueFree n) (v w) :
```

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 3]
```diff
@@ -0,0 +1,170 @@
...
+
+namespace SimpleGraph
+
+variable {V : Type*} [DecidableEq V] (G : SimpleGraph V) (s t : V)
+
+section ReplaceVertex
+
+/-- The graph formed by forgetting `t`'s neighbours and instead giving it those of `s`. The `s-t`
+edge is removed if present. -/
+abbrev replaceVertex : SimpleGraph V where
```
Comment (urkud) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:33]: Why should this be an `abbrev`, not `def`?

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1311]: Can you split this to a standalone PR, making clear that it's moved without modification?

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1311]: #9400

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean:33]: When I first wrote this code I had `def`, but then someone told me to use `abbrev` instead so I wouldn't have to write e.g. `simp [replaceVertex]` to close a goal all the time.

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 4]
```diff
@@ -55,4 +56,86 @@ lemma adj_replaceVertex_iff_of_ne_right {w : V} (hw : w ≠ t) :
...
+
+/-- Given a vertex pair, add the corresponding edge to the graph's edge set if not present. -/
+abbrev addEdge : SimpleGraph V where
+  Adj v w := G.Adj v w ∨ s ≠ t ∧ (s = v ∧ t = w ∨ s = w ∧ t = v)
+  symm v w := by simp_rw [adj_comm]; (conv_lhs => arg 2; arg 2; rw [or_comm]); exact id
+
+@[simp]
+lemma addEdge_self : G.addEdge s s = G := by ext; simp
+
+lemma addEdge_adj (h : G.Adj s t) : G.addEdge s t = G := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:124]:
```suggestion
lemma addEdge_of_adj (h : G.Adj s t) : G.addEdge s t = G := by
```

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 5]
```diff
@@ -55,4 +56,86 @@ lemma adj_replaceVertex_iff_of_ne_right {w : V} (hw : w ≠ t) :
...
+  ext
+  simp only [ne_eq, G.ne_of_adj h, not_false_eq_true, true_and, or_iff_left_iff_imp]
+  rintro (_ | _) <;> simp_all [adj_comm]
+
+variable [Fintype V] {s t} [DecidableRel G.Adj]
+
+theorem edgeFinset_addEdge (hn : ¬G.Adj s t) (h : s ≠ t) :
+    (G.addEdge s t).edgeFinset = G.edgeFinset ∪ {s(s, t)} := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:132]: Can you use `Finset.cons` here, to avoid the `DecidableRel`?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 6]
```diff
@@ -299,40 +299,32 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
...
-      · replace ha := @ha x y; simp_all
-    · use ⟨fun v => if v = x then s else f v, ?_⟩
-      swap
-      · intro a b
-        dsimp only
-        split_ifs
+    · obtain ⟨y, _⟩ := ms
+      have := @ha x y
+      simp_all [not_cliqueFree_iff]
+    · use ⟨fun v ↦ if v = x then s else f v, ?_⟩ <;> intro a b
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:314]:
```suggestion
    · use ⟨Function.update f x s, ?_⟩ <;> intro a b
```

Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:314]: (then maybe you'll find we have API for what you do below)

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean]: All done!

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 7]
```diff
@@ -55,4 +56,86 @@ lemma adj_replaceVertex_iff_of_ne_right {w : V} (hw : w ≠ t) :
...
+  rw [card_image_of_injective, card_neighborFinset_eq_degree]
+  unfold Function.Injective
+  aesop
+
 end ReplaceVertex
+
+section AddEdge
+
+/-- Given a vertex pair, add the corresponding edge to the graph's edge set if not present. -/
+abbrev addEdge : SimpleGraph V where
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:117]:
```suggestion
def addEdge : SimpleGraph V where
```

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean]: Done.

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 8]
```diff
@@ -29,17 +30,23 @@ section ReplaceVertex
 
 /-- The graph formed by forgetting `t`'s neighbours and instead giving it those of `s`. The `s-t`
 edge is removed if present. -/
-abbrev replaceVertex : SimpleGraph V where
+def replaceVertex : SimpleGraph V where
   Adj v w := if v = t then if w = t then False else G.Adj s w
                       else if w = t then G.Adj v s else G.Adj v w
   symm v w := by dsimp only; split_ifs <;> simp [adj_comm]
 
+@[simp]
```
Comment (urkud) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:38]: Do you **always** want to simplify LHS to RHS?

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 9]
```diff
@@ -55,4 +62,102 @@ lemma adj_replaceVertex_iff_of_ne_right {w : V} (hw : w ≠ t) :
...
 end ReplaceVertex
+
+section AddEdge
+
+/-- Given a vertex pair, add the corresponding edge to the graph's edge set if not present. -/
+def addEdge : SimpleGraph V where
+  Adj v w := G.Adj v w ∨ s ≠ t ∧ (s = v ∧ t = w ∨ s = w ∧ t = v)
+  symm v w := by simp_rw [adj_comm]; (conv_lhs => arg 2; arg 2; rw [or_comm]); exact id
+
+@[simp]
```
Comment (urkud) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:137]: Same here.

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean (hunk 8 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean]: Fixed; I'm now seeing the benefits of keeping definitions folded through `simp` calls. I managed to rewrite `CliqueFree.replaceVertex` to run even faster than before.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 10]
```diff
@@ -299,41 +299,28 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
   exact absurd he hn
 
 /-- Clique-freeness is preserved by `replaceVertex`. -/
-theorem cliqueFree_of_replaceVertex_cliqueFree [DecidableEq α] (s t : α) (h : G.CliqueFree n) :
+protected theorem CliqueFree.replaceVertex [DecidableEq α] (h : G.CliqueFree n) (s t : α) :
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:302]: Note about dot notation: there's no need to put `G.CliqueFree` first.

I think it's nicer in this new order though.

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 11]
```diff
@@ -29,30 +30,125 @@ section ReplaceVertex
...
+  aesop
 
 end ReplaceVertex
+
+section AddEdge
+
+/-- Given a vertex pair, add the corresponding edge to the graph's edge set if not present. -/
+def addEdge : SimpleGraph V where
+  Adj v w := G.Adj v w ∨ s ≠ t ∧ (s = v ∧ t = w ∨ s = w ∧ t = v)
+  symm v w := by simp_rw [adj_comm]; (conv_lhs => arg 2; arg 2; rw [or_comm]); exact id
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:130]: I would prefer we use lattice operations for adding edges. The idea is to make constructor `SimpleGraph.edge (v w : V) : SimpleGraph V` that creates a graph with a single edge between `v` and `w` if they're not equal (and no edge if they are), and then `G.addEdge v w` would instead be `G ⊔ edge v w`. This is more versatile, though perhaps lemmas such as `addEdge_of_adj` are a bit more brittle to apply.

I won't hold up merging the PR on account of this; I don't feel like refactoring `addEdge` later would be very difficult.

**Review by kmill — COMMENTED** [review]
Thanks!

bors r+

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean (hunk 11 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean:130]: Well the refactor was indeed easy and is now at #9736.
